US06380218B1
2-[3-(2,2,2-Trifluoro-1-hydroxy-ethyl)-phenoxyl-nicotinic acid ethyl ester
To a solution of 2-(3-Formyl-phenoxy)-nicotinic acid ethyl ester (2.0 grams, 7.4 mmole) in 0.5 M trimethyl(trifluoromethyl)silane (18 ml) in tetrahydrofuran (20 ml) at 0° C. was added tetrabutyl ammonium fluoride (0.050 g). The mixture was stirred at 0° C. for 1 hour. To the mixture was added 1.0 N hydrochloric acid (10 ml) and stirred at room temperature for 30 minutes. The mixture was poured into 200 ml water and extracted with diethyl ether. The combined extracts were washed with saturated NaHCO3, and water, dried over magnesium sulfate and concentrated to give an oil which was purified via flash chromatography on silica using 60% ethyl acetate/hexane as eluent to give an oil (1.97 g). MW 341.31; MS (m/e) 341 (M+).

reactant | 2-(3-Formyl-phenoxy)-nicotinic acid ethyl ester | 7.4 mmole, 2.0 grams | C(C)OC(C1=C(N=CC=C1)OC1=CC(=CC=C1)C=O)=O | C15H13NO4
reactant | tetrabutyl ammonium fluoride | 0.050 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 1.0 N, 10 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
reactant | trimethyl(trifluoromethyl)silane | 0.5 M, 18 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2,2,2-Trifluoro-1-hydroxy-ethyl)-phenoxyl-nicotinic acid ethyl ester | 1.97 g | C(C)OC(C1=C(N=CC=C1)OC1=CC(=CC=C1)C(C(F)(F)F)O)=O | C16H14F3NO4
